US07326447B2
200 g (0.665 mol) of 1-bromo-3-fluoro-4-iodobenzene were dissolved in 800 ml of tetrahydrofuran, and 440 ml (0.698 mmol) of a 15 percent solution of n-butyllithium in hexane were added dropwise at −70° C. After 30 minutes, a solution of 117 g (0.698 mol) of 4-pentylcyclohexanone in 200 ml of tetrahydrofuran was added, and the batch was left to stirr for 60 minutes, hydrolysed using water and acidified using conc. hydrochloric acid. The organic phase was separated off, washed with water and dried over sodium sulfate, and the solvent was removed under reduced pressure. The crude product was subsequently dissolved in 1.4 l of toluene and, after addition of 6 g of toluenesulfonic acid, heated on a water separator until water of reaction was no longer separated off. The solution was washed with water and evaporated, and the residue was filtered through silica gel with n-heptane, giving 124 g (58%) of 4-bromo-2-fluoro-1-(4-pentylcyclohex-1-enyl)benzene as a yellow oil.

reactant | 1-bromo-3-fluoro-4-iodobenzene | 0.665 mol, 200 g | BrC1=CC(=C(C=C1)I)F | C6H3BrFI
reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-pentylcyclohexanone | 0.698 mol, 117 g | C(CCCC)C1CCC(CC1)=O | C11H20O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-bromo-2-fluoro-1-(4-pentylcyclohex-1-enyl)benzene | 124 g, 58% | BrC1=CC(=C(C=C1)C1=CCC(CC1)CCCCC)F | C17H22BrF
